US04092311
A 3.42 g. portion of 6-(p-cyanophenyl)-3(2H)-pyridazinone in 25 ml. of phosphorus oxychloride is stirred and heated at reflux temperature for 3 hours. Most of the excess phosphorus oxychloride is removed under reduced pressure. Cracked ice-water is added to the concentrate which is stirred until the excess phosphorus oxychloride hydrolyzes. The solid is collected by filtration, dried and recrystallized from dimethylformamide-water, yielding 6-(p-cyanophenyl)-3-chloropyridazine, m.p. 236°-238° C.

reactant | 6-(p-cyanophenyl)-3(2H)-pyridazinone | C(#N)C1=CC=C(C=C1)C=1C=CC(NN1)=O | C11H7N3O
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 6-(p-cyanophenyl)-3-chloropyridazine | C(#N)C1=CC=C(C=C1)C1=CC=C(N=N1)Cl | C11H6ClN3
